US06900216B2
A few drops of a solution of 4-bromobenzo[b]thiophene (5 g; prepared in a manner similar to that described in Example 9 Method A) in tetrahydrofuran (10 ml) was added under nitrogen to magnesium turnings (0.6 g). Two crystals of iodine were added and heat was applied to initiate the reaction. The remainder of the 4-bromobenzo[b]thiophene solution was added at reflux temperature over 30 minutes, the mixture was heated under reflux for 2 hours, then further tetrahydrofuran (10 ml) was added. A solution of N-methoxy-N-methylpent-4-enamide (5 g) in tetrahydrofuran (5 ml) was added, the mixture was heated under reflux for 3 hours, then it was cooled to ambient temperature and quenched by the addition of water (100 ml) and 5M hydrochloric acid (5 ml). The product was extracted into ethyl acetate (3×60 ml), the combined extracts were washed with water (100 ml) and saturated aqueous sodium chloride solution (100 ml), then they were dried (MgSO4), and the solvents were removed in vacuo. The residue was purified by flash chromatography over silica using 99:1 followed by a 98:2 mixtures of petroleum ether (b.p. 40-60° C.) and ethyl acetate as eluants. Appropriate fractions were combined and the solvents removed in vacuo to give 1-(benzo[b]thiophen-4-yl)pent-4-en-1-one (1.6 g) as a colourless oil which was used without further purification.

reactant | 4-bromobenzo[b]thiophene | BrC1=CC=CC=2SC=CC21 | C8H5BrS
reactant | magnesium | 0.6 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | N-methoxy-N-methylpent-4-enamide | 5 g | CON(C(CCC=C)=O)C | C7H13NO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(benzo[b]thiophen-4-yl)pent-4-en-1-one | 1.6 g | S1C2=C(C=C1)C(=CC=C2)C(CCC=C)=O | C13H12OS
